US07485283B2
Synthesis of (4-benzyloxy-3,5-dimethoxy-phenyl)-acetaldehyde
To a solution of 2-(4-benzyloxy-3,5-dimethoxy-phenyl)-ethanol (1.0 g, 3.3 mmol) in dichloromethane (25 mL) was added Dess-Martin reagent (1.54 g, 3.6 mmol) and water (59 μL). After completion of addition the reaction continued to stir for 6 hours. The resulting precipitate was filtered off and the filtrate was concentrated. The crude material was purified using silica gel chromatography (gradient from 1:2 ethyl acetate:hexane to 1:1 ethyl acetate:hexane) to obtain the desired compound as a yellow oil (547 mg, 55%).

reactant | 2-(4-benzyloxy-3,5-dimethoxy-phenyl)-ethanol | 3.3 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OC)CCO)OC | C17H20O4
reactant | Dess-Martin reagent | 3.6 mmol, 1.54 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | water | 59 μL | O | H2O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (4-benzyloxy-3,5-dimethoxy-phenyl)-acetaldehyde | 547 mg, 55% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OC)CC=O)OC | C17H18O4
